US04672127
5-(3,4-Dihydroxybenzylidene)-hydantoin was prepared in the same manner as in Example 4, except that 45.7 g (0.25 mol) of L-lysine.hydrochloride and 69.1 g (0.50 mol) of 3,4-dihydroxybenzaldehyde were used in lieu of glycine and p-hydroxybenzaldehyde, respectively. During the reaction, the pH of the reaction mixture was 9.4 to 9.2.

reactant | L-lysine.hydrochloride | 0.25 mol, 45.7 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | 3,4-dihydroxybenzaldehyde | 0.50 mol, 69.1 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 5-(3,4-Dihydroxybenzylidene)-hydantoin | OC=1C=C(C=C2C(NC(N2)=O)=O)C=CC1O | C10H8N2O4
